US07572808B2
C. Preparation of 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirring solution of 1,1′-carbonyldiimidazole (2.5 g, 15.4 mmol) in THF (15 mL) at room temperature under argon was added 4-(4-chlorophenyl)-2-hydrazinyl-3,4′-bipyridine (0.92 g, 3.1 mmol). The reaction mixture was stirred at room temperature for 45 min. The reaction mixture was then concentrated under vacuum to produce a yellow solid. This solid was stirred in an ice bath and water (25 mL) was added. Solid was collected by filtration and further washed with water (15 mL×2). After drying in an oven at 50° C. under reduced pressure overnight, 960 mg of the title compound was obtained as a yellow solid. HPLC/MS: retention time=1.985 min, [M+H]+=323. 1H NMR (DMSO-d6, 500 MHz): δ 12.61 (s, 1H), 8.50 (d, J=6.05 Hz, 2H), 7.94 (d, J=7.15 Hz, 1H), 7.36 (d, J=8.2 Hz, 2H), 7.23 (d, J=6.05 Hz, 2H), 7.18 (d, J=8.2 Hz, 2H), 6.68 (d, J=7.15 Hz, 1H).

reactant | 1,1′-carbonyldiimidazole | 15.4 mmol, 2.5 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(4-chlorophenyl)-2-hydrazinyl-3,4′-bipyridine | 3.1 mmol, 0.92 g | ClC1=CC=C(C=C1)C1=C(C(=NC=C1)NN)C1=CC=NC=C1 | C16H13ClN4
reactant | water | 25 mL | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 960 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(NN2)=O)C2=CC=NC=C2 | C17H11ClN4O
